US04701548
PREPARATION OF PHENETHYL-2-MERCAPTOPROPIONATE
Into a 250 cc reaction flask equipped with stirrer, thermometer and reflux condenser are placed 120 grams phenylethyl alcohol; 26 grams 3-mercaptopropionic acid; and 0.5 grams of para-toluene sulphonic acid. With stirring, the reaction mass is heated to reflux and refluxed for a period of 8 hours. At the end of the 8 hour period, the reaction mass is mixed with 200 ml diethyl ether and washed with two 100 ml portions of 10% aqueous sodium bicarbonate followed by one 100 ml portion of water. The organic phase is separated and dried and the solvents are recovered on a Buchi evaporator. The resulting product is then distilled using a micro distillation apparatus yielding the following fractions:

reactant | phenylethyl alcohol | 120 grams | C1(=CC=CC=C1)CCO | C8H10O
reactant | 3-mercaptopropionic acid | 26 grams | SCCC(=O)O | C3H6O2S
reactant | para-toluene sulphonic acid | 0.5 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | PHENETHYL-2-MERCAPTOPROPIONATE | C(CC1=CC=CC=C1)OC(C(C)S)=O | C11H14O2S
